US05780482
A mixture of ethyl 4-chloro-7-ethoxy-1,8-naphthyridine-3-carboxylate (1.6 g) and 5-amino-2-ethoxypyridine (0.8 g) and IMS (50 ml) was boiled under reflux for 2 hours. The mixture was cooled and ether (200 ml) was added. The mixture was filtered to give ethyl 7-ethoxy-4-(2-ethoxy-5-pyridylamino)-1,8-naphthyridine-3-carboxylate hydrochloride, m.p. 180°-185° C. Active (1/1) at 30 mg/kg.

reactant | ethyl 4-chloro-7-ethoxy-1,8-naphthyridine-3-carboxylate | 1.6 g | ClC1=C(C=NC2=NC(=CC=C12)OCC)C(=O)OCC | C13H13ClN2O3
reactant | 5-amino-2-ethoxypyridine | 0.8 g | NC=1C=CC(=NC1)OCC | C7H10N2O
solvent | ether | 200 ml | CCOCC | C4H10O
product | ethyl 7-ethoxy-4-(2-ethoxy-5-pyridylamino)-1,8-naphthyridine-3-carboxylate hydrochloride | Cl.C(C)OC1=CC=C2C(=C(C=NC2=N1)C(=O)OCC)NC=1C=CC(=NC1)OCC | InChI=1S/C20H22N4O4.ClH/c1-4-26-16-9-7-13(11-21-16)23-18-14-8-10-17(27-5-2)24-19(14)22-12-15(18)20(25)28-6-3;/h7-12H,4-6H2,1-3H3,(H,22,23,24);1H
